US07728025B2
1-Acetyl-2-(5-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-6-yl)pyrrolidin-3-ol diastereomer A
5 mg of potassium carbonate was added to a methanol (2 ml) solution of 14 mg of (1-acetyl-2-(5-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-6-yl)pyrrolidin-3-yl acetate diastereomer A obtained in Example 468, and the reaction liquid was stirred overnight at room temperature. The solvent was evaporated away, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=15/1) to obtain the entitled compound as a white solid.

reactant | potassium carbonate | 5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-acetyl-2-(5-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-6-yl)pyrrolidin-3-yl acetate | C(C)(=O)OC1C(N(CC1)C(C)=O)C=1C(=CC2=C(NC(=N2)C2=NC=CC=C2)C1)OC1=CC=C(C=C1)S(=O)(=O)C | C27H26N4O6S
solvent | methanol | 2 ml | CO | CH4O
product | 1-Acetyl-2-(5-(4-(methanesulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-6-yl)pyrrolidin-3-ol | C(C)(=O)N1C(C(CC1)O)C=1C(=CC2=C(NC(=N2)C2=NC=CC=C2)C1)OC1=CC=C(C=C1)S(=O)(=O)C | C25H24N4O5S
